US07615562B2
Step B: {4-[4-(3-Amino-propyl)-phenyl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared from toluene-4-sulfonic acid 3-{4-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-propyl ester and ammonia in MeOH.

reactant | toluene-4-sulfonic acid 3-{4-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-propyl ester | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CC=C(C=C1)CCCOS(=O)(=O)C1=CC=C(C=C1)C)(C)C)C | C29H38N4O3S
reactant | ammonia | N | H3N
solvent | MeOH | CO | CH4O
product | {4-[4-(3-Amino-propyl)-phenyl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | NCCCC1=CC=C(C=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C22H33N5
